US07504411B2
To a suspension of 3-(4-bromophenyl)-piperidine-1-carboxylic acid tert-butyl ester (3.0 g, 8.8 mmol), palladium acetate (80 mg, 0.36 mmol), 2-(di-t-butyl phosphino)biphenyl (210 mg, 0.70 mmol), and sodium t-butoxide (1.2 g, 125 mmol) in toluene (30 mL) was added N-methylpiperazine (1.3 g, 13.0 mmol) at room temperature. After heating at 90° C. for 5 h, the resulting suspension was passed through a Celite column. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel chromatography eluting 5-25% of ethyl acetate in hexane to afford 3-(4-(4-methylpiperazin-1-yl)-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (2.0 g, 5.56 mmol, 63%) as white crystals.

reactant | 3-(4-bromophenyl)-piperidine-1-carboxylic acid tert-butyl ester | 8.8 mmol, 3.0 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=CC=C(C=C1)Br | C16H22BrNO2
reactant | 2-(di-t-butyl phosphino)biphenyl | 0.70 mmol, 210 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium t-butoxide | 125 mmol, 1.2 g | CC(C)([O-])C.[Na+]
reactant | N-methylpiperazine | 13.0 mmol, 1.3 g | CN1CCNCC1 | C5H12N2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.36 mmol, 80 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(4-(4-methylpiperazin-1-yl)-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 5.56 mmol, 2.0 g, 63% | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=CC=C(C=C1)N1CCN(CC1)C | C21H33N3O2
